US05650422
By the method of Example 22A 2-aminosulfonyl-4,5-dimethoxy-6-isopropyl-N,N-dimethylbenzamide (10.75 g) was prepared and cyclized to 4-isopropyl-5,6-dimethoxysaccharin (mp 186°-188° C. from ether-hexane), phenylthiomethylation of part (5 g) of which with chloromethyl phenyl sulfide (2.48 mL) gave 2-phenylthiomethyl-4-isopropyl-5,6-dimethoxysaccharin (4.07 g), reaction of which with sulfuryl chloride (three molar equivalents) gave 2-chloromethyl-4-isopropyl-5,6-dimethoxysaccharin, 85% yield, mp 117°-119° C. from ethyl acetate-hexane.

reactant | 2-aminosulfonyl-4,5-dimethoxy-6-isopropyl-N,N-dimethylbenzamide | 10.75 g | NS(=O)(=O)C1=C(C(=O)N(C)C)C(=C(C(=C1)OC)OC)C(C)C | C14H22N2O5S
reactant | 4-isopropyl-5,6-dimethoxysaccharin | C(C)(C)C1=C2C(NS(=O)(=O)C2=CC(=C1OC)OC)=O | C12H15NO5S
reactant | chloromethyl phenyl sulfide | 2.48 mL | C1(=CC=CC=C1)SCCl | C7H7ClS
reactant | 2-phenylthiomethyl-4-isopropyl-5,6-dimethoxysaccharin | 4.07 g | C1(=CC=CC=C1)SCN1S(=O)(=O)C2=CC(=C(C(=C2C1=O)C(C)C)OC)OC | C19H21NO5S2
reactant | sulfuryl chloride | three molar | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 2-chloromethyl-4-isopropyl-5,6-dimethoxysaccharin | 85% yield | ClCN1S(=O)(=O)C2=CC(=C(C(=C2C1=O)C(C)C)OC)OC | C13H16ClNO5S
